US06127386
189b. 6-Chloro-3-(1-methyl-2-(R)-azetidinylmethoxy)-5-phenylpyridine hydrochloride
To a solution of 6-chloro-3-(1-methyl-2-(R)-azetidinylmethoxy)-5-phenylpyridine in Et2O was added hydrogen chloride (1.0 M in Et2O) carefully to afford the tittle compound: mp 173-175° C.; 1H NMR (D2O) δ 2.60-2.78 (m, 3H), 3.00 (s, 3H), 4.02 (m, 1H), 4.25 (m, 1H), 4.60-4.78 (m, 2H), 7.56-7.60 (m, 6H), 8.18 (d, 1H, J=2.0 Hz); MS (CI/NH3) m/z 289 (M+H)+. Anal. Calcd for C16H17ClN2O.1.1 HCl; C, 58.43; H, 5.55; N, 8.52. Found: C, 58.37; H, 5.56; N, 8.43. [α]D23 +40.37 (c 0.27, MeOH).

reactant | 6-chloro-3-(1-methyl-2-(R)-azetidinylmethoxy)-5-phenylpyridine | ClC1=C(C=C(C=N1)OC[C@@H]1N(CC1)C)C1=CC=CC=C1 | C16H17ClN2O
reactant | hydrogen chloride | 1.0 M | Cl | ClH
reactant | MeOH | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
product | 6-Chloro-3-(1-methyl-2-(R)-azetidinylmethoxy)-5-phenylpyridine hydrochloride | Cl.ClC1=C(C=C(C=N1)OC[C@@H]1N(CC1)C)C1=CC=CC=C1 | InChI=1S/C16H17ClN2O.ClH/c1-19-8-7-13(19)11-20-14-9-15(16(17)18-10-14)12-5-3-2-4-6-12;/h2-6,9-10,13H,7-8,11H2,1H3;1H/t13-;/m1./s1
